US06686350B1
To a solution of 2,3-dimethoxybenzoic acid (10.9781 mmol, 2.0 g) in CH2Cl2 (20 mL) with a drop of DMF, was added oxalyl chloride (10.9781 mmol, 957.702:l) dropwise at RT After 2 hrs the reaction mixture was concentrated in vacuo to afford 2,3-dimethoxybenzoyl chloride (1.9 g, 90%): 1H NMR (CDCl3, 300 MHz, ppm): 7.52 (m, 1H), 7.12 (d, 2H), 3.89 (s, 3H), 3.88 (s, 3H).

reactant | 2,3-dimethoxybenzoic acid | 10.9781 mmol, 2.0 g | COC1=C(C(=O)O)C=CC=C1OC | C9H10O4
reactant | DMF | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 10.9781 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2,3-dimethoxybenzoyl chloride | 1.9 g, 90% | COC1=C(C(=O)Cl)C=CC=C1OC | C9H9ClO3
